US03951982
From 11.7 g. of 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile and 19.1 g. of N-benzylpiperazine in 150 ml. of dimethyl sulfoxide, there is obtained 6-[p-(4-benzyl-1-piperazinyl)phenyl]-1,2-dihydro-2-oxonicotinonitrile; m.p. 275°-286° (dec.).

reactant | 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile | FC1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C12H7FN2O
reactant | N-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 6-[p-(4-benzyl-1-piperazinyl)phenyl]-1,2-dihydro-2-oxonicotinonitrile | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C23H22N4O
